US07384967B2
5-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}ethoxy) nicotinic acid (23 mg, 95%) was prepared from 5-(2-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}ethoxy)nicotinic acid methyl ester (0.025 g, 0.05 mmol) and 2.5M LiOH (20 ul) following the general procedure J.

reactant | 5-(2-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}ethoxy)nicotinic acid methyl ester | 0.05 mmol, 0.025 g | COC(C1=CN=CC(=C1)OCCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C26H28N4O5S
solvent | LiOH | 2.5M, 20 ul | [Li+].[OH-]
product | 5-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}ethoxy) nicotinic acid | 23 mg, 95% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CCOC=1C=NC=C(C(=O)O)C1)=O | C25H26N4O5S
